US05238908
2-Methoxy-5-nitroaniline was purchased and acetylated using HOAc/Ac2O in H2O/THF according to known procedures to made 2-methoxy-5-nitroacetanilide. This was reduced using catalytic hydrogenation (PtO2, H2, EtOH) to afford 3-acetamido-4-methoxyaniline which was reacted as described in Example 2 to yield the desired glutaramic acid.

reactant | 2-Methoxy-5-nitroaniline | COC1=C(N)C=C(C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | HOAc Ac2O | CC(=O)O.CC(=O)OC(=O)C
reactant | EtOH | CCO | C2H6O
solvent | H2O THF | O.C1CCOC1
catalyst | PtO2 | O=[Pt]=O
product | 3-acetamido-4-methoxyaniline | C(C)(=O)NC=1C=C(N)C=CC1OC | C9H12N2O2
